US05134111
(a) Synthesis of 5-bromo-1-methoxymethoxy naphthalene
6.0 g of 5-bromo-1-naphthol was dissolved in 50 ml of N,N-dimethylformamide, to which 1.2 g of 60% sodium hydride was added. After stirring at a room temperature for 10 min, it was cooled to 0° C., to which 3.5 ml of chloromethyl methyl ether was added and stirred for 10 min. Water was added to the reaction solution, which was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then the solvent was distilled off. When the resultant residue was purified on silica gel column chromatography (10% ethyl acetate/hexane), 7.2 g of the above-captioned compound was obtained as red acicular crystals.

reactant | 5-bromo-1-naphthol | 6.0 g | BrC1=C2C=CC=C(C2=CC=C1)O | C10H7BrO
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 3.5 ml | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-bromo-1-methoxymethoxy naphthalene | 7.2 g | BrC1=C2C=CC=C(C2=CC=C1)OCOC | C12H11BrO2
